US04024265
d. 1,2,3,4,4a, 5,11,11 a-octahydro-2-methyl-6H-benzo[5,6]-cyclohepta[1,2-c]pyridin-6-one [Compound V isomer mixture]
27 g of 3-benzyl-1-methyl-4-piperidine-acetic acid ethyl ester are slowly added to 250 g of polyphosphoric acid previously heated to 100°, the temperature is raised to 130° and the reaction mixture is stirred at this temperature for 2 hours. After cooling to room temperature the reaction mixture is poured on 1 liter of water, the resulting solution is washed out with ether and made alkaline with potassium carbonate (pH 9 to 10). The 1,2,3,4,4a5,11,11a-octahydro-2-methyl-6H-benzo[5,6]-cyclohepta[1,2-c]pyridin-6-one which separates as an oil, is extracted with ether, the extracts are washed with water, dried over sodium sulphate, concentrated by evaporation and distilled in a high vacuum. The mixture of isomers has a B.P. of 135°-140° 10.05 mm Hg.

reactant | 3-benzyl-1-methyl-4-piperidine-acetic acid ethyl ester | 27 g | C(C)OC(CC1C(CN(CC1)C)CC1=CC=CC=C1)=O | C17H25NO2
solvent | water | 1 liter | O | H2O
product | 1,2,3,4,4a, 5,11,11 a-octahydro-2-methyl-6H-benzo[5,6]-cyclohepta[1,2-c]pyridin-6-one | CN1CC2C(CC1)CC(C1=C(C2)C=CC=C1)=O | C15H19NO
